US07935722B2
Cyclopropanecarboxylic acid[6-cyano-9-(3-fluorobenzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]amide
Prepare the title compound from cyclopropanecarboxylic acid(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)amide (3.00 g, 10.7 mmol) and 3-fluorobenzyl bromide (2.2 g, 11.8 mmol) by essentially following procedures as described in Example 1 to obtain 1.4 g (34%) of a beige solid. mp: 207-209° C.; MS (ES): m/z 388 (M+1); HPLC: Rt=2.28 min (100%).

reactant | cyclopropanecarboxylic acid(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)amide | 10.7 mmol, 3.00 g | C(#N)C=1C=C2C=3CC(CCC3NC2=CC1)NC(=O)C1CC1 | C17H17N3O
reactant | 3-fluorobenzyl bromide | 11.8 mmol, 2.2 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | Cyclopropanecarboxylic acid[6-cyano-9-(3-fluorobenzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]amide | C(#N)C=1C=C2C=3CC(CCC3N(C2=CC1)CC1=CC(=CC=C1)F)NC(=O)C1CC1 | C24H22FN3O
